US07375126B2
Alternatively, to a 4-necked 5-L jacketed round bottom flask fitted with a mechanical stirrer and a thermocouple was charged the nitroaniline (100 g, 1.0 equiv.) and acetic acid (2000 mL). The solution was cooled to 14° C. A chilled to ˜1° C. (ice-water bath) solution of sodium nitrite (100 g, 2.2 equiv.) in water (250 mL) was added quickly in one portion. The internal temperature rose from 14° C. to 27.6° C. over 5 min., stayed at this temperature for 5 min. before gradually cooling to 15° C. The mixture was stirred for 24 h after which it was concentrated in vacuo to an approximate volume of 500 mL. The residue was reslurried in water (1800 mL) at ambient temperature for 21 hours. The orange solid was filtered, washed with water (3×250 mL), and dried in a vacuum oven at 70° C. to afford 97.0 g of 4-nitroindazole as a bright orange solid.

reactant | nitroaniline | 100 g, 1.0 equiv. | [N+](=O)([O-])NC1=CC=CC=C1 | C6H6N2O2
reactant | acetic acid | 2000 mL | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 100 g, 2.2 equiv. | N(=O)[O-].[Na+]
solvent | water | 250 mL | O | H2O
product | 4-nitroindazole | 97.0 g | [N+](=O)([O-])C1=C2C=NNC2=CC=C1 | C7H5N3O2
